US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride (16.5 mg, 0.05 mmol), prepared as described in Example 3a, was dissolved in anhydrous THF (2 mL) and to it was added 4-imidazol-1-yl-phenylamine (12 mg, 0.075 mmol) followed by DIEA (14 μL, 0.075 mmol) and the mixture was stirred at 65° C. for 3 h. It was then concentrated in vacuo and the residue was purified by Preparative TLC (silica gel, 5% MeOH/DCM) to obtain 2 mg (5%) of pure 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-imidazol-1-yl-phenyl)-amide. 1H-NMR (300 MHz, CDCl3) δ 9.04 (s, 2H), 7.63 (m, 3H), 7.55-7.40 (m, 5H), 7.33 (s, 1H), 4.37 (m, 2H), 4.07 (s, 6H), 3.76-3.58 (m, 2H), 3.14 (m, 2H), 2.18-1.90 (m, 3H). LC/MS (ESI): calcd mass 458.2, found 459.5 (MH)+.

reactant | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride | 0.05 mmol, 16.5 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCN(CC1)C(=O)Cl | C16H18ClN3O3
reactant | 4-imidazol-1-yl-phenylamine | 0.075 mmol, 12 mg | N1(C=NC=C1)C1=CC=C(C=C1)N | C9H9N3
reactant | DIEA | 0.075 mmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-imidazol-1-yl-phenyl)-amide | 2 mg, 5% | N1(C=NC=C1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C25H26N6O3
